### PR TITLE
Fix : 1729 sorries from Eq 1729 Equiv usage

### PR DESCRIPTION
**Pull request by Shreyas4991**

### CODE REVIEW

**Review by pitmonticone — APPROVED** [review]
LGTM, thanks!

**Comment by pitmonticone** [comment]
@Shreyas4991 Is it ready to merge?

File: equational_theories/ManuallyProved/Equation1729/SmallMagma.lean [hunk 1]
```diff
@@ -456,25 +456,43 @@ lemma reduce_to_new_axioms {S': N → SM} {L₀' : N → N} {op: N → N → M}
...
+      simp at h''
+      
+      /-
+      calc {
         _ = (R' (S a)).symm ∘ (L₀' ∘ (R' 0) ∘ ((R' a) ∘ (R' a).symm) ∘ L₀') ∘ (R' (S a))  := rfl
         _ = _ := by simp [L₀'_R'0_L₀'_eq_id h_i']
+
+      }
       -/
       sorry
```
Comment (teorth) [inline equational_theories/ManuallyProved/Equation1729/SmallMagma.lean:494]: I think this should work:
```
      calc
        _ = (L₀' ∘ (R' 0).symm ∘ (R' 0)) y := by simp
        _ = _ := by rw [<-h_i']; rfl
```

Comment (Shreyas4991) [reply equational_theories/ManuallyProved/Equation1729/SmallMagma.lean]: Done. It cleared the sorry.
